US05059691
2,5-Dimethyl-7-phenylpyrazolo(1,5-a) pyrimidine-3-carbonitrile
A mixture of 4.88 g of 5-amino-3-methyl-4-pyrazolecarbonitrile and 8.61 g of 3-(1-pyrrolidinyl)crotonophenone in 50 ml of glacial acetic acid is stirred and heated at reflux for 6 hours. The reaction mixture is cooled and the procedure described in Example 2 is then followed to obtain 7.77 g of the desired product, mp 175°-177° C.

reactant | 5-amino-3-methyl-4-pyrazolecarbonitrile | 4.88 g | NC1=C(C(=NN1)C)C#N | C5H6N4
reactant | 3-(1-pyrrolidinyl)crotonophenone | 8.61 g | N1(CCCC1)\C(=C/C(=O)C1=CC=CC=C1)\C | C14H17NO
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2,5-Dimethyl-7-phenylpyrazolo(1,5-a) pyrimidine-3-carbonitrile | 7.77 g | CC1=NN2C(N=C(C=C2C2=CC=CC=C2)C)=C1C#N | C15H12N4
